US05495020
To a solution of t-butyl nitrite (1.87 g) in anhydrous dimethylformamide (10.9 ml) is added dropwise a solution of 2,4,5-trifluoro-3-methyl-6-nitroaniline (2.05 g) in anhydrous dimethylformamide (16.4 ml) with stirring at 50°-52° C. and the mixture is stirred at the same temperature for 30 minutes. After cooling, the reaction mixture is poured into ice-water, extracted with diethyl ether, and the extract is washed with water and dried. The solvent is distilled off under reduced pressure and the obtained residue is purified by silica-gel column-chromatography (eluent; dichloromethane : n-hexane=1 : 4) to give 2,3,6-trifluoro-4-nitrotoluene (0.7 g).

reactant | t-butyl nitrite | 1.87 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2,4,5-trifluoro-3-methyl-6-nitroaniline | 2.05 g | FC1=C(N)C(=C(C(=C1C)F)F)[N+](=O)[O-] | C7H5F3N2O2
solvent | dimethylformamide | 10.9 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 16.4 ml | CN(C=O)C | C3H7NO
product | 2,3,6-trifluoro-4-nitrotoluene | 0.7 g | FC1=C(C(=CC(=C1F)[N+](=O)[O-])F)C | C7H4F3NO2
